US07737141B2
Synthesis of 1-(2,6-difluoropyridin-3-yl)ethanol
In nitrogen atmosphere, diisopropylamine (134 mL) was dropwise added to a solution mixture of an n-butyl lithium hexane solution (2.62 M, 368 mL) and tetrahydrofuran (800 mL) at −60° C. or below. The resulting reaction solution was stirred at −60° C. for 30 min, and then a tetrahydrofuran solution (100 mL) of 2,6-difluoropyridine (100 g) was dropwise added thereto at −60° C. or below. The resulting reaction solution was stirred at the same temperature for 1 hr, and then acetoaldehyde (97.6 mL) was dropwise added thereto. Then, a 2 N hydrochloric acid aqueous solution (1000 mL) was dropwise added to the reaction solution, and further ethyl acetate (1000 mL) and toluene (1000 mL) were added thereto. The organic layer was separated and concentrated under reduced pressure to give 129 g of the title compound. The physical property values of this compound were as follows:

reactant | diisopropylamine | 134 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium hexane | 2.62 M, 368 mL | CCCCCC.C(CCC)[Li]
reactant | 2,6-difluoropyridine | 100 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | acetoaldehyde | 97.6 mL | C(C)=O | C2H4O
reactant | hydrochloric acid | 2 N, 1000 mL | Cl | ClH
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | 1-(2,6-difluoropyridin-3-yl)ethanol | 129 g | FC1=NC(=CC=C1C(C)O)F | C7H7F2NO
